US05439936
Synthesis of Dehydroilludin M
A mixture of illudin M (200 mg) and pyridinium dichromate (1 g) in dry dichloromethane (60 ml) was stirred at room temperature in a flask equipped with a rubber septum so that an atmosphere of argon could be maintained. After 20 hours, the reaction mixture was diluted with diethyl ether (20 ml) and filtered through a short column of silica gel. The column was further eluted with more diethyl ether and the combined filtrate was concentrated, giving a residue which was chromatographed on silica gel with hexane-ethyl acetate (10:1) as eluent. The desired compound was obtained in early fractions from the chromatography. The yield was 140 mg of white crystals melting at 64°-65° C. NMR spectral data were recorded for this compound.

reactant | illudin M | 200 mg | CC1=C2[C@H](C(C=C2C(=O)[C@](C13CC3)(C)O)(C)C)O | C15H20O3
reactant | pyridinium dichromate | 1 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Dehydroilludin M | CC1=C2C(=CC(C2=O)(C)C)C(=O)[C@](C13CC3)(C)O | C15H18O3
